US08471005B2
The compound was prepared in an analogous fashion to Example 85 replacing 1-(3-Nitro-phenyl)-piperazine with 1-(4-Nitro-phenyl)-piperazine and 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine with 7-(3-Chloro-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine to afford 22.28 mg of 1-(4-{4-[7-(3-Chloro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperazin-1-yl)-2-methyl-propan-2-ol as a lyophilized powder. (M+H)=477.8. 1H NMR (400 MHz, DMSO, d6) δ 9.39 (s, 1H), 8.99 (s, 1H), 8.49 (s, 1H), 8.03 (d, 1H, J=7.93 Hz), 7.67 (d, 2H, J=8.92 Hz), 7.54 (t, 1H, J=7.97 Hz), 7.44 (m, 1H), 7.26 (d, 1H, J=4.76 Hz), 7.01 (d, 2H, J=8.96 Hz), 6.95 (d, 1H, J=4.76 Hz), 3.63 (m, 4H), 3.25 (m, 6H), 1.31 (s, 6H).

reactant | 1-(3-Nitro-phenyl)-piperazine | [N+](=O)([O-])C=1C=C(C=CC1)N1CCNCC1 | C10H13N3O2
reactant | 1-(4-Nitro-phenyl)-piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | 7-(3-Chloro-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | ClC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)S(=O)C | C13H10ClN3OS
product | 1-(4-{4-[7-(3-Chloro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperazin-1-yl)-2-methyl-propan-2-ol | 22.28 mg | ClC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)CC(C)(O)C | C26H29ClN6O
